US08445487B2
4-(2-Chloro-9-methyl-9H-purin-6-yl)morpholine (233 mg) was cooled in 5 mL of anhydrous THF to −78° C. before adding 2 eq of a 2.5 M solution of n-butyl lithium. The reaction was stirred for 1 hour at −78° C. upon which 3 eq of acetone were added. The reaction was subsequently warmed to 0° C. after 30 minutes. The reaction was quenched with water and extracted with ethyl acetate. The organic layer was concentrated to give crude 2-(2-chloro-9-methyl-6-morpholino-9H-purin-8-yl)propan-2-ol (95 mg).

reactant | 4-(2-Chloro-9-methyl-9H-purin-6-yl)morpholine | 233 mg | ClC1=NC(=C2N=CN(C2=N1)C)N1CCOCC1 | C10H12ClN5O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | acetone | 3 eq | CC(=O)C | C3H6O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(2-chloro-9-methyl-6-morpholino-9H-purin-8-yl)propan-2-ol | 95 mg | ClC1=NC(=C2N=C(N(C2=N1)C)C(C)(C)O)N1CCOCC1 | C13H18ClN5O2
